US07790763B2
b) [5-Methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-[3-(4-trifluoromethyl-phenoxy)-azetidin-1-yl]-methanone
Prepared in analogy to Example 21(b) from (3-hydroxy-azetidin-1-yl)-[5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone and 4-fluorobenzotrifluoride. The crude material was purified by flash chromatography (methanol/dichloromethane) to yield the title compound as a white crystalline solid (yield 9%). MS (m/e): 512.3 (M+H+, 100%).

reactant | (3-hydroxy-azetidin-1-yl)-[5-methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone | OC1CN(C1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)O[C@@H](C(F)(F)F)C | C14H16F3NO5S
reactant | 4-fluorobenzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | [5-Methanesulfonyl-2-((R)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-[3-(4-trifluoromethyl-phenoxy)-azetidin-1-yl]-methanone | yield 9% | CS(=O)(=O)C=1C=CC(=C(C1)C(=O)N1CC(C1)OC1=CC=C(C=C1)C(F)(F)F)O[C@@H](C(F)(F)F)C | C21H19F6NO5S
